US05672609
2-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)-6-phenylpyridine
The 2-(4-benzyloxyphenyl)-3-(4-methoxyphenyl)-6-phenylpyridine (3.5 g, 7.9 mmol) and ammonium formate (2.5 g, 40 mmol) were stirred in 150 mL of EtOH, then 5% Pd/ C (1.4 g, 0.6 mmol Pd) was added and the reaction mixture was stirred at 60 ° C. for 1 h. The TLC (MeOH/ CHCl3, 1:9) indicated a small amount of the starting material remained, so more ammonium formate (0.3 g, 5 mmol) was added and reaction mixture stirred at 60° C. for 0.5 h, which consumed the remaining starting material. After cooling, the reaction mixture was filtered and the filter pad washed with 50 mL of EtOH, then 50 mL of EtOAc. The filtrates were combined and concentrated, then redissolved in 150 mL of EtOAc, washed with brine, dried (Na2SO4), concentrated, and the residue triturated with Et2O/ pet. ether to give 2.5 g (90% yield) of white solid: mp 200°-202° C.; 1H NMR (CDCl3) d 3.85 (s, 3H, OCH3), 5.07 (s, 1H, ArOH), 6.71-6.90 (m, 4H, ArH), 7.17-7.20 (d, 2H, J=8 Hz, ArH), 7.38-7.54 (m, 5H, ArH), 7.75 (s, 2H, ArH), 8.13-8.16 (d, 2H, J=9 Hz, ArH); MS(FD) 354(M+). Anal. Calcd for C24H19 NO2 : C, 81.56; H, 5.42; N, 3.96. Found: C, 81.50; H, 5.61; N, 3.99.

reactant | 2-(4-benzyloxyphenyl)-3-(4-methoxyphenyl)-6-phenylpyridine | 7.9 mmol, 3.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C31H25NO2
reactant | ammonium formate | 40 mmol, 2.5 g | C(=O)[O-].[NH4+]
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
reactant | ammonium formate | 5 mmol, 0.3 g | C(=O)[O-].[NH4+]
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
catalyst | Pd | 0.6 mmol, 1.4 g | [Pd] | Pd
product | 2-(4-Hydroxyphenyl)-3-(4-methoxyphenyl)-6-phenylpyridine | 2.5 g, 90% yield | OC1=CC=C(C=C1)C1=NC(=CC=C1C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C24H19NO2
